US07935815B2
Synthesis of 6-chloro-2-methoxy-3-nitropyridine
Sodium methoxide (2.8 g) was added to a solution of 2,6-dichloro-3-nitropyridine (10 g) in THF (100 mL) at 0° C., and the reaction solution was stirred at room temperature for 13 hours. A saturated ammonium chloride solution and ethyl acetate were added to the reaction solution, and the organic layer was separated. The resulting organic layer was washed with brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: heptane-ethyl acetate system) to obtain 6.49 g of the title compound. The property value of the compound is as follows.

reactant | Sodium methoxide | 2.8 g | C[O-].[Na+]
reactant | 2,6-dichloro-3-nitropyridine | 10 g | ClC1=NC(=CC=C1[N+](=O)[O-])Cl | C5H2Cl2N2O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 6-chloro-2-methoxy-3-nitropyridine | 6.49 g | ClC1=CC=C(C(=N1)OC)[N+](=O)[O-] | C6H5ClN2O3
